US07749999B2
4-tert-Butyl-2-trifluoromethyl-6-nitro-phenol.
4-tert-Butyl-2-trifluoromethyl-phenol (70 mg, 0.32 mmol) was dissolved in 3 mL AcOH/1.5 mL water and cooled to 0° C. HNO3 (1.5 mL) and catalytic H2SO4 were added and the reaction was allowed to warm to room temperature. Stirring was continued overnight, after which water was added and the compound was extracted into EtOAc. The organic layer was dried over MgSO4 and concentrated to yield 34 mg of final compound. Calculated mass =263. Observed mass=264

reactant | 4-tert-Butyl-2-trifluoromethyl-phenol | 0.32 mmol, 70 mg | C(C)(C)(C)C1=CC(=C(C=C1)O)C(F)(F)F | C11H13F3O
reactant | HNO3 | 1.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
product | 4-tert-Butyl-2-trifluoromethyl-6-nitro-phenol | 34 mg | C(C)(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])O)C(F)(F)F | C11H12F3NO3
